US08383631B2
3-amino-1-[{4-(2,4,6-trimethylbenzyl)piperazin-1-yl}propanoyl]-6-N-(p-tolyl)-4,5,6,7-tetrahydro-1-H-pyrazolo[3,4-c]pyridin-7-one (Compound 6)
A target compound (130.2 mg, 0.253 mmol, 56.7%) was yielded as yellow solid in the same manner as Example 1 by reacting 3-amino-5,6-dihydro-6-N-(p-tolyl)-1H-pyrazolo[3,4-c]pyridin-7(4H)-one (108.2 mg, 0.446 mmol) with potassium carbonate (92.4 mg, 0.669 mmol) and 1-{4-(2,4,6-trimethylbenzyl)piperazin-1-yl}-3-chloropropan-1-one (151.3 mg, 0.490 mmol).

reactant | 3-amino-5,6-dihydro-6-N-(p-tolyl)-1H-pyrazolo[3,4-c]pyridin-7(4H)-one | 0.446 mmol, 108.2 mg | NC1=NNC=2C(N(CCC21)C2=CC=C(C=C2)C)=O | C13H14N4O
reactant | potassium carbonate | 0.669 mmol, 92.4 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1-{4-(2,4,6-trimethylbenzyl)piperazin-1-yl}-3-chloropropan-1-one | 0.490 mmol, 151.3 mg | CC1=C(CN2CCN(CC2)C(CCCl)=O)C(=CC(=C1)C)C | C17H25ClN2O
product | 3-amino-1-[{4-(2,4,6-trimethylbenzyl)piperazin-1-yl}propanoyl]-6-N-(p-tolyl)-4,5,6,7-tetrahydro-1-H-pyrazolo[3,4-c]pyridin-7-one | NC1=NN(C=2C(N(CCC21)C2=CC=C(C=C2)C)=O)C(CCN2CCN(CC2)CC2=C(C=C(C=C2C)C)C)=O | C30H38N6O2
